US05994378
Sodium borohydride (4 mg) was added to a solution of benzyl 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-oxoethyl}indole-3-carboxylate in a mixed solvent of methanol (1 ml) and tetrahydrofurane (5 ml). After being stirred for several hours, the reaction mixture was diluted with aqueous ammonium acetate solution, which was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixture of toluene and ethyl acetate. The fractions containing the objective compound were combined and concentrated under reduced pressure to give benzyl 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-hydroxyethyl}indole-3-carboxylate (70 mg).

reactant | Sodium borohydride | 4 mg | [BH4-].[Na+]
reactant | benzyl 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-oxoethyl}indole-3-carboxylate | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(CN2C=C(C1=CC=CC=C21)C(=O)OCC2=CC=CC=C2)=O | C33H28N2O4S
reactant | methanol | 1 ml | CO | CH4O
reactant | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
solvent | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | benzyl 1-{2-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-2-hydroxyethyl}indole-3-carboxylate | 70 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)C(CN2C=C(C1=CC=CC=C21)C(=O)OCC2=CC=CC=C2)O | C33H30N2O4S
